US04026936
Potassium nitrate (2.1 g., 0.02 mol) was added in one portion to a solution of 4.5 g. (0.02 mol) of 2-(4-chlorobenzoyl)thiazole in 25 ml. of concentrated sulfuric acid. After 1 hr. the mixture was cautiously poured into 250 ml. of ice water, the product collected, washed with water and dried to yield 2-(3-nitro-4-chlorobenzoyl)thiazole as pale-yellow prisms, mp. 118°-119° (acetone-water).

reactant | Potassium nitrate | 0.02 mol, 2.1 g | [N+](=O)([O-])[O-].[K+]
reactant | 2-(4-chlorobenzoyl)thiazole | 0.02 mol | ClC1=CC=C(C(=O)C=2SC=CN2)C=C1 | C10H6ClNOS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(3-nitro-4-chlorobenzoyl)thiazole | [N+](=O)([O-])C=1C=C(C(=O)C=2SC=CN2)C=CC1Cl | C10H5ClN2O3S
